US06824882B2
To a slurry of 98.0 g of zinc powder in 600 mL of ethanol was added 3.0 g of acetic acid. A solution of the crude 7-iodo-8-(nonafluorobutyl)-1-octanol prepared above in 100 mL of ethanol was added dropwise with stirring over 15 min, and the reaction mixture was heated at 50° C. for 3 hr. The mixture was filtered, and the filtrate was concentrated to 100.0 g of a viscous, light yellow fluid. A 79.6 g portion of this material was stirred with 300 mL of hexanes, and the supernatant was filtered through diatomaceous earth (marketed under the trade designation “CELITE” by Johns-Manville Corporation, Denver, Colo.) and concentrated to give 44.24 g of 8-(nonafluorobutyl)-1-octanol as a clear, colorless oil, which was used without further purification.

reactant | acetic acid | 3.0 g | C(C)(=O)O | C2H4O2
reactant | 7-iodo-8-(nonafluorobutyl)-1-octanol | IC(CCCCCCO)CC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C12H16F9IO
solvent | ethanol | 600 mL | C(C)O | C2H6O
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | zinc | 98.0 g | [Zn] | Zn
product | 8-(nonafluorobutyl)-1-octanol | 44.24 g | FC(C(C(CCCCCCCCO)(F)F)(F)F)(C(F)(F)F)F | C12H17F9O
